US04997840
A mixture of acetic anhydride (23 ml) and formic acid (15.5 ml) was stirred at 50° for 4 hours and then cooled to 0° in an ice/salt bath. 2'-(Ethylamino)-acetophenone (20.5 g) was added in small portions over 15 minutes and the mixture allowed to stand at room temperature for 1 hour. The mixture was cooled to 0° and water (100 ml) followed by aqueous sodium hydroxide (specific gravity 1.5, 10 ml) was added dropwise whilst maintaining the temperature below 10°. The resultant mixture was extracted with dichloromethane (4×100 ml) and the combined extracts were dried over magnesium sulphate to give a solution of 2'-acetyl-N-ethylformanilide.

reactant | acetic anhydride | 23 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 15.5 ml | C(=O)O | CH2O2
reactant | 2'-(Ethylamino)-acetophenone | 20.5 g | C(C)NC1=C(C=CC=C1)C(C)=O | C10H13NO
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 2'-acetyl-N-ethylformanilide | C(C)(=O)C1=C(N(C=O)CC)C=CC=C1 | C11H13NO2
